US07163947B2
A solution of N-(7-bromo-2-propyl-1H-imidazo[4,5-c]quinolin-1-yl)isopropylamine (9.10 g, 26.2 mmol) in 200 mL of chloroform was placed under an atmosphere of nitrogen and cooled in an ice water bath. The solution was treated with MCPBA (8.28 g, 28.8 mmol, 77% max) and allowed to slowly come to ambient temperature. After 2 h, LC/MS and HPLC indicated complete conversion to the 5-N-oxide intermediate. The reaction mixture was again cooled in an ice water bath. The reaction mixture was treated with ammonium hydroxide solution (50 mL, 30%) and stirred vigorously. The mixture was treated with p-toluenesulfonyl chloride (5.24 g, 27.5 mmol) and allowed to come to ambient temperature. After 30 min, the reaction was diluted with 50 mL of water, and the phases were separated. The organic portion was washed with water (75 mL), brine (75 mL), dried over Na2SO4, filtered and concentrated under reduced pressure to yield a light brown solid. The solid was purified by chromatography (SiO2, 95:5 CHCl3:MeOH) and then recrystallized from acetonitrile to give 4.52 g of 7-bromo-N1-isopropyl-2-propyl-1H-imidazo[4,5-c]quinoline-1,4-diamine as off white crystals. mp 226–228° C.; 1H NMR (300 MHz, DMSO-d6) δ 8.44 (d, J=8.7 Hz, 1H), 7.71 (d, J=2.1 Hz, 1H), 7.36 (dd, J=8.7, 2.1 Hz, 1H), 6.99 (d, J=1.7 Hz, 1H), 6.73 (s, 2H), 3.53–3.40 (m, 1H), 2.90 (s, 2H), 1.93–1.80 (m, 2H), 1.05–1.00 (m, 9H); 13C NMR (125 MHz, DMSO-d6) δ 154.9, 152.9, 146.3, 132.5, 127.8, 124.2, 123.5, 123.1, 119.7, 114.0, 79.5, 51.4, 28.2, 21.1, 20.6, 14.3; MS (APCI) m/z 362, 364 (M+H)+; Anal. Calcd for C16H20BrN5.0.25H2O: C, 52.40; H, 5.63; N, 19.09; Found: C, 52.03; H, 5.42; N, 19.14.

reactant | N-(7-bromo-2-propyl-1H-imidazo[4,5-c]quinolin-1-yl)isopropylamine | 26.2 mmol, 9.10 g | BrC=1C=CC=2C3=C(C=NC2C1)N=C(N3NC(C)C)CCC | C16H19BrN4
reactant | MCPBA | 28.8 mmol, 8.28 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | ammonium hydroxide | 50 mL | [OH-].[NH4+]
reactant | p-toluenesulfonyl chloride | 27.5 mmol, 5.24 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | chloroform | 200 mL | C(Cl)(Cl)Cl | CHCl3
solvent | water | 50 mL | O | H2O
product | 7-bromo-N1-isopropyl-2-propyl-1H-imidazo[4,5-c]quinoline-1,4-diamine | 4.52 g | BrC=1C=CC=2C3=C(C(=NC2C1)N)N=C(N3NC(C)C)CCC | C16H20BrN5
